US09079866B2
5-{2′-[(1,1-Dioxidothiomorpholin-4-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 4-((2-bromophenyl)sulfonyl)thiomorpholine 1,1-dioxide. MS (ESI): mass calcd. for C20H19FN4O4S2, 462.08; m/z found, 463.0 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.62-8.60 (m, 1H), 8.16-8.14 (m, 1H), 8.13-8.12 (m, 1H), 8.05 (t, J=8.1 Hz, 1H), 7.69-7.65 (m, 1H), 7.59-7.54 (m, 1H), 7.39-7.36 (m, 1H), 7.25-7.21 (m, 2H), 4.81 (s, 2H), 3.36-3.30 (m, 4H), 3.02-2.98 (m, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 4-((2-bromophenyl)sulfonyl)thiomorpholine 1,1-dioxide | BrC1=C(C=CC=C1)S(=O)(=O)N1CCS(CC1)(=O)=O | C10H12BrNO4S2
product | 5-{2′-[(1,1-Dioxidothiomorpholin-4-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine | O=S1(CCN(CC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F)=O | C20H19FN4O4S2
